US06348474B1
In the same manner as in Example 1, 5-carboxy-3-(2,4-dichlorobenzyl)-2-methylbenzo[b]thiophene (440 mg, 1.25 mmol) was suspended in dimethylformamide and carbonyldiimidazole (305 mg, 1.88 mmol) was added, which was followed by stirring at room temperature for 1 hr. Then, 1-n-pentanesulfonamide (284 mg, 1.88 mmol) and DBU (286 mg, 1.88 mmol) were added and the mixture was refluxed under heating at 100° C. for 15 hr. The reaction mixture was concentrated under reduced pressure and water and 3N hydrochloric acid were added to acidify the mixture. The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The desiccant was filtered off and the filtrate was concentrated under reduced pressure. The residual oil was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=3/2) and recrystallized from 2-propanol-n-hexane to give 3-(2,4-dichlorobenzyl)-2-methyl-5-(1-n-pentanesulfonylcarbamoyl)benzo[b]thiophene (410 mg, 68%) as colorless crystals.

reactant | 5-carboxy-3-(2,4-dichlorobenzyl)-2-methylbenzo[b]thiophene | 1.25 mmol, 440 mg | C(=O)(O)C1=CC2=C(SC(=C2CC2=C(C=C(C=C2)Cl)Cl)C)C=C1 | C17H12Cl2O2S
reactant | carbonyldiimidazole | 1.88 mmol, 305 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-n-pentanesulfonamide | 1.88 mmol, 284 mg | C(CCCC)S(=O)(=O)N | C5H13NO2S
reactant | DBU | 1.88 mmol, 286 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(2,4-dichlorobenzyl)-2-methyl-5-(1-n-pentanesulfonylcarbamoyl)benzo[b]thiophene | 410 mg, 68% | ClC1=C(CC=2C3=C(SC2C)C=CC(=C3)C(NS(=O)(=O)CCCCC)=O)C=CC(=C1)Cl | C22H23Cl2NO3S2
